US05569655
To a solution of 3-(4-methoxyphenyl)propionic acid (50.34 g, 0.279 mol) in 500 ml of methylene chloride cooled to 0° C. was added slowly at 0° C. 30.5 ml (0.418 mol) of thionyl chloride, the mixture was stirred 10 h, at room temperature and the solvent was removed in vacuo. The residue was dissolved in 1000 ml of methylene chloride, cooled to 0° C., and 40.92 g (0.306 mol) of aluminum chloride was added in small portions and the resulting mixture was sitrred at room temperature for 1 h. The above mixture was poured onto ice, the resulting mixture was filtered through celite, and the aqueous layer was extracted with methylene chloride (2×200 ml). The combined organic layer was dried over sodium sulfate, concentrated in vacuo, and the residue was extracted with hexane to afford 40 g (88%) of 6-methoxy-1-indanone.

reactant | 3-(4-methoxyphenyl)propionic acid | 0.279 mol, 50.34 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | thionyl chloride | 0.418 mol, 30.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 0.306 mol, 40.92 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-1-indanone | 40 g, 88% | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
